US20010016659A1
A slurry of 4-(3-(N-methylsulfamoyl)phenyloxy)-1-nitrobenzene (0.30 g) and 10% Pd/C (0.030 g) in EtOAc (20 mL) was stirred under an H2 atmosphere (balloon) overnight. The resulting mixture was filtered through a pad of Celite®. The filtrate was concentrated under reduced pressure. The residue was purified by colunm chromatography (30% EtOAc/70% hexane) to give 4-(3-(N-methylsulfamoyl)phenyloxy)aniline (0.070 g).

reactant | 4-(3-(N-methylsulfamoyl)phenyloxy)-1-nitrobenzene | 0.30 g | CNS(=O)(=O)C=1C=C(C=CC1)OC1=CC=C(C=C1)[N+](=O)[O-] | C13H12N2O5S
solvent | EtOAc | 20 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.030 g | [Pd] | Pd
product | 4-(3-(N-methylsulfamoyl)phenyloxy)aniline | 0.070 g | CNS(=O)(=O)C=1C=C(C=CC1)OC1=CC=C(N)C=C1 | C13H14N2O3S
